US08138174B2
To a magnetically stirred solution of toluene-4-sulfonic acid 7-oxo-7-[4-(trifluoromethyl)phenyl]heptyl ester (2.77 g, 6.464 mmol) in methanol (75 ml), a catalytic amount of para-toluenesulfonic acid (0.097 g, 0.508 mmol) and excess trimethylorthoformate (16 ml, 142 mmol) were successively added. The resulting mixture was heated at reflux temperature for 20 hours. After allowing the reaction mixture to attain room temperature saturated aqueous NaHCO3 and dichloromethane were successively added. The separated organic layer was washed with saturated aqueous NaHCO3. The organic layer was subsequently dried over Na2SO4, filtered and concentrated in vacuo to give crude toluene-4-sulfonic acid 7,7-dimethoxy-7-[4-(trifluoromethyl)phenyl]heptyl ester which was purified by column chromatography (alumina, ethylacetate/heptane= 1/10 (v/v)) to give pure toluene-4-sulfonic acid 7,7-dimethoxy-7-[4-(trifluoromethyl)phenyl]heptyl ester (1.82 g, 59% yield). 1H-NMR (400 MHz, CDCl3) δ 0.84-0.93 (m, 2H), 1.06-1.26 (m, 4H), 1.51-1.57 (m, 2H), 1.80-1.86 (m, 2H), 2.44 (s, 3H), 3.13 (s, 6H), 3.94 (t, J=7, 2H), 7.32 (d, J˜8, 2H), 7.55 (d, J˜8, 2H), 7.60 (d, J˜8, 2H), 7.75 (d, J˜8, 2H).

reactant | toluene-4-sulfonic acid 7-oxo-7-[4-(trifluoromethyl)phenyl]heptyl ester | 6.464 mmol, 2.77 g | O=C(CCCCCCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C21H23F3O4S
reactant | para-toluenesulfonic acid | 0.508 mmol, 0.097 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethylorthoformate | 142 mmol, 16 ml | COC(OC)OC | C4H10O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 7,7-dimethoxy-7-[4-(trifluoromethyl)phenyl]heptyl ester | 1.82 g, 59% yield | COC(CCCCCCOS(=O)(=O)C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C(F)(F)F)OC | C23H29F3O5S
